US04622169
A solution of dimethylsulfoxide (50 ml), water (5.0 ml), 2-chloro-1,4-diamino anthraquinone (5.0 g) and sodium hydroxide (1.0 g) is heated to 100° C. for 4 hours. The mixture is cooled and diluted with water until a precipitate forms. The precipitate is collected, washed, dried and recrystallized from carbon tetrachloride. The yield is 24 percent 2-(p-hydroxy ethyl phenoxy)-1,4-diamino anthraquinone with a melting point of 224° C. to 227° C.

reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | 2-chloro-1,4-diamino anthraquinone | 5.0 g | ClC1=C(C=2C(C3=CC=CC=C3C(C2C(=C1)N)=O)=O)N | C14H9ClN2O2
reactant | sodium hydroxide | 1.0 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | water | 5.0 ml | O | H2O
product | 2-(p-hydroxy ethyl phenoxy)-1,4-diamino anthraquinone | yield is 24 percent | OCCC1=CC=C(OC2=C(C=3C(C4=CC=CC=C4C(C3C(=C2)N)=O)=O)N)C=C1 | C22H18N2O4
